US07667041B2
Synthesis of 4-(1H-imidazol-1-yl)-3-methoxybenzaldehyde
Potassium carbonate (2.0 g) and imidazole (662 mg) were added to a DMF (20 mL) solution of 4-fluoro-3-methoxybenzaldehyde (1.50 g). The reaction solution was agitated at 80° C. overnight, water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:hexane:ethyl acetate=3:1→ethyl acetate→ethyl acetate:methanol=10:1), and 960 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | Potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 662 mg | N1C=NC=C1 | C3H4N2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 4-fluoro-3-methoxybenzaldehyde | 1.50 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(1H-imidazol-1-yl)-3-methoxybenzaldehyde | 960 mg | N1(C=NC=C1)C1=C(C=C(C=O)C=C1)OC | C11H10N2O2
